US05252567
A mixture of 2-amino-4-chloro-1,6-dimethylpyrimidinium iodide (0.571 g; 2 mM; described in Indian Research, 1976, 21 p. 96) and 4-phenylpiperidine (0.644 g; 4 mM) in ethanol (30 ml) was heated under reflux for 15 hours. The solvent was removed in vacuo and the residue was triturated with ether. The solid was removed by filtration and recrystallised from a mixture of methanol and ether to give 2-amino-1,6-dimethyl-4-(4-phenylpiperidino)pyrimidinium iodide as a solid (0.41 g, 50% yield), m.p. 248°-250° C. (decomp.); microanalysis, found: C,50.0; H,5.6; N,13.7%; C17H23N4I requires C,49.8; H,5.6; N,13.7%; NMR (220 MHz; d5): 1.4-1.75 (2H, b, piperidine 3-H axial and 5-H axial), 1.85-2.0 (2H, d, piperidine 3-H equatorial and 5-H equatorial), 2.4 (3H, s, CH3), 2.8-3.3 (3H, b, piperidine 4-H and piperidine 2-H axial and 6-H axial), 3.45 (3H, s, N--CH3), 4.2-4.4 (1H, broad d, piperidine 2-H equatorial or 6-H equatorial), 4.85-5.05 (1H, broad d, piperidine 6-H equatorial or 2-H equatorial), 6.7 (1H, s pyrimdine 5H), 7.1-7.4 (5H, complex, aromatic H), 7.85-8.0 (2H, br, NH2).

reactant | 2-amino-4-chloro-1,6-dimethylpyrimidinium iodide | 2 mM, 0.571 g | [I-].NC1=[N+](C(=CC(=N1)Cl)C)C
reactant | 4-phenylpiperidine | 4 mM, 0.644 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-amino-1,6-dimethyl-4-(4-phenylpiperidino)pyrimidinium iodide | 0.41 g, 50% yield | [I-].NC1=[N+](C(=CC(=N1)N1CCC(CC1)C1=CC=CC=C1)C)C | InChI=1S/C17H22N4.HI/c1-13-12-16(19-17(18)20(13)2)21-10-8-15(9-11-21)14-6-4-3-5-7-14;/h3-7,12,15,18H,8-11H2,1-2H3;1H
